US05389633
Production of 6-(2,2-diethyl-5-sulfamoyl-1-pentyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
Using 5-hydroxy-4,4-diethyl-1-pentanesulfonamide and 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction was conducted as in Example 5 to produce the title compound. m.p. 157°-158° C.

reactant | 5-hydroxy-4,4-diethyl-1-pentanesulfonamide | OCC(CCCS(=O)(=O)N)(CC)CC | C9H21NO3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
product | 6-(2,2-diethyl-5-sulfamoyl-1-pentyloxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | C(C)C(COC=1C(=CC=2N(N1)N=CN2)C)(CCCS(N)(=O)=O)CC | C15H25N5O3S
